US04581369
In 100 ml of ethanol is dissolved 15.6 g of oily 3-chloro-4-(1-imidazolyl)-2',4',6'-trimethylbenzophenone obtained in the reference example 4. To the ethanol solution is added a solution of 1.8 g of sodium borohydride in 20 ml of water. After the whole solution is stirred at 50° C. for 17 hours, the reaction mixture is poured into ice-cold water and extracted with chloroform. The chloroform is distilled off and the residue is recrystallized from toluene to give 14 g of α-(2,4,6-trimethylphenyl)-3-chloro-4-(1-imidazolyl)benzenemethanol as white crystals, melting at 156°-157° C.

reactant | 3-chloro-4-(1-imidazolyl)-2',4',6'-trimethylbenzophenone | 15.6 g | ClC=1C=C(C(=O)C2=C(C=C(C=C2C)C)C)C=CC1N1C=NC=C1 | C19H17ClN2O
reactant | sodium borohydride | 1.8 g | [BH4-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | α-(2,4,6-trimethylphenyl)-3-chloro-4-(1-imidazolyl)benzenemethanol | 14 g | CC1=C(C(=CC(=C1)C)C)C(O)C1=CC(=C(C=C1)N1C=NC=C1)Cl | C19H19ClN2O
